US04318854
8-Chloro-1-(2-chlorophenyl)-3,4-dihydro-4-[(dimethylamino)methylene]-5H-2-benzazepin-5-one
A mixture of 18.6 g (61 mmole) of 8-chloro-1-(2-chlorophenyl)-3,4-dihydro-5H-2-benzazepin-5-one and 149 ml of dimethylformamide dimethyl acetal was gently heated (ca 50° C.) for 12 hr. The mixture was concentrated at reduced pressure to dryness. The residue was crystallized from a mixture of ether and methylene chloride to give a yellow solid, mp 170°-171° C. Recrystallization from ether gave yellow prisms, mp 170°-171° C.

reactant | 8-chloro-1-(2-chlorophenyl)-3,4-dihydro-5H-2-benzazepin-5-one | 61 mmole, 18.6 g | ClC1=CC2=C(C(CCN=C2C2=C(C=CC=C2)Cl)=O)C=C1 | C16H11Cl2NO
reactant | dimethylformamide dimethyl acetal | 149 ml | COC(N(C)C)OC | C5H13NO2
product | 8-Chloro-1-(2-chlorophenyl)-3,4-dihydro-4-[(dimethylamino)methylene]-5H-2-benzazepin-5-one | ClC1=CC2=C(C(C(CN=C2C2=C(C=CC=C2)Cl)=CN(C)C)=O)C=C1 | C19H16Cl2N2O
